US07427635B2
2-Amino-thiazole-4-carboxylic acid methyl ester (0.57 g, 3.62 mmol) and (2S,3S)-2-tert-butoxycarbonylamino-3-phenyl-butyric acid (Acros) (1.01 g, 3.62 mmol), 1-hydroxybenzotriazole and (0.59 g, 4.34 mmol) and O-benzeotrazol-1-yl-N,N,N′,N′-tetramethyluroniumhexaflurorophosphate (1.65 g, 4.34 mmol) in N,N-dimethylformamide (8 mL) were stirred at ambient temperature for 24 hours. The mixture was diluted with ethyl acetate, washed with water, brine and dried (magnesium sulfate). Evaporation of the solvents and chromatography of the residue over silica gel gradient eluted with 0.2-1.5% methanol in dichloromethane gave 2-((2S,3S)-2-tert-butoxycarbonylamino-3-phenyl-butyrylamino)-thiazole-4-carboxylic acid methyl ester (0.65 g, 43%).

reactant | 2-Amino-thiazole-4-carboxylic acid methyl ester | 3.62 mmol, 0.57 g | COC(=O)C=1N=C(SC1)N | C5H6N2O2S
reactant | (2S,3S)-2-tert-butoxycarbonylamino-3-phenyl-butyric acid | 3.62 mmol, 1.01 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)[C@@H](C)C1=CC=CC=C1 | C15H21NO4
reactant | 1-hydroxybenzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-((2S,3S)-2-tert-butoxycarbonylamino-3-phenyl-butyrylamino)-thiazole-4-carboxylic acid methyl ester | 0.65 g, 43% | COC(=O)C=1N=C(SC1)NC([C@H]([C@@H](C)C1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C20H25N3O5S
